US05015661
rac-6-Acetyloxy-2-[(benzo[b]thiophen-3-yl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran.
A mixture of 0.3 g of rac-2-[(benzo[b]thiophen-3-yl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6ol, 20 ml of pyridine and 1 ml of acetic anhydride was allowed to sit at room temperature over night and was then evaporated to dryness under reduced pressure. The residue was crystallized from hexane to yield 0.25 g of colorless crystals with m.p. 99°-101°.

reactant | rac-2-[(benzo[b]thiophen-3-yl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6ol | 0.3 g | S1C2=C(C(=C1)C#CC1(OC3=C(CC1)C(=C(C(=C3C)C)O)C)C)C=CC=C2 | C23H22O2S
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | rac-6-Acetyloxy-2-[(benzo[b]thiophen-3-yl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran | 0.25 g | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(C)C#CC=2C3=C(SC2)C=CC=C3)C1C)C)C | C25H24O3S
